US08648081B2
O) Synthesis of 3-[5-(3,5-dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid [(2,2-difluoro-ethylcarbamoyl)-methyl]-amide
To a solution of compound 3-[5-(3,5-dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid (3 g, 6.4 mmol) in acetonitrile (30 mL) is added N,N-diisopropylethylamine (2.5 g, 19 mmol), 2-amino-N-(2,2-difluoro-ethyl)-acetamide hydrochloride (1.34 g, 7.7 mmol) and HATU (3.7 g, 9.6 mmol), after the addition the mixture is stirred at room temperature for 1 hour. After being detected by TLC and LCMS, the reaction mixture is concentrated and the residue is purified by column chromatography to afford desired product (3 g, 88%). MS (m/z): 588.1 (M+1).

reactant | 3-[5-(3,5-dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid | 6.4 mmol, 3 g | ClC=1C=C(C=C(C1F)Cl)C1(CC(=NO1)C1=C2C(=C(S1)C(=O)O)CCC2)C(F)(F)F | C18H11Cl2F4NO3S
reactant | N,N-diisopropylethylamine | 19 mmol, 2.5 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-amino-N-(2,2-difluoro-ethyl)-acetamide hydrochloride | 7.7 mmol, 1.34 g | Cl.NCC(=O)NCC(F)F
reactant | HATU | 9.6 mmol, 3.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 3-[5-(3,5-dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid [(2,2-difluoro-ethylcarbamoyl)-methyl]-amide | 3 g, 88% | FC(CNC(=O)CNC(=O)C=1SC(=C2C1CCC2)C2=NOC(C2)(C(F)(F)F)C2=CC(=C(C(=C2)Cl)F)Cl)F | C22H17Cl2F6N3O3S
